US06858739B2
Step A: Diethyl 4-isothiocyanatobenzylphosphonate
Thiophosgene (4.1 mL, 54 mmol) was added al at once to a mixture of diethyl 4-aminobenzylphosphonate (12.04 g, 50 mmol), sodium bicarbonate (8.33 g, 99 mmol), water (100 mL), and dichloromethane (250 mL), and the mixture was stirred at room temperature for about 2 hours. The organic and aqueous layers were separated, the organic layer dried over magnesium sulfate, filtered, and concentrated to give the product isothiocyanate as a brown oil. This was used directly in the next step.

reactant | Thiophosgene | 54 mmol, 4.1 mL | C(=S)(Cl)Cl | CCl2S
reactant | diethyl 4-aminobenzylphosphonate | 50 mmol, 12.04 g | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
reactant | sodium bicarbonate | 99 mmol, 8.33 g | C([O-])(O)=O.[Na+]
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | Diethyl 4-isothiocyanatobenzylphosphonate | N(=C=S)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C12H16NO3PS
